US06660753B2
A mixture of picolinic acid (62 mg, 0.5 mmol) and triethylamine (202 mg, 2 mmol) in tetrahydrofuran (1 mL) was treated with isobutylchloroformate (0.059 ml, 0.55 mmol) at room temperature. The mixture was stirred for 2 hours and treated with 3-fluoro-5-(1H-imidazol-1-yl)]phenyl-amidoxime (100 mg, 0.45 mmol). The mixture was then heated in dimethylformamide (1 mL) at 130° C. overnight. Standard work up, afforded 24.4 mg (17.6%) 3-[3-fluoro-5-(1H-imidazol-1-yl)]phenyl]-5-(2-pyridyl)-1,2,4-oxadiazole. 1H-NMR (CDCl3), δ (ppm): 8.90 (d, 1H), 8.32 (d, 1H), 8.10 (s, 1H), 7.7.98 (m, 3H), 7.58 (dd, 1H), 7.39 (s, 1H), 7.29 (m, 2H).

reactant | picolinic acid | 0.5 mmol, 62 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | triethylamine | 2 mmol, 202 mg | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 0.55 mmol, 0.059 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 5-(2-pyridyl)-1,2,4-oxadiazole | N1=C(C=CC=C1)C1=NC=NO1 | C7H5N3O
